US04997836
A solution of di-tert-butyl dicarbonate (5.0 g) in dichloromethane (30 ml) is added dropwise, taking one hour at 0° C. while stirring, to a mixture of methyl piperazine-2-carboxylate dihydrochloride (5.0 g), triethylamine (7 g) and dichloromethane (70 ml). The reaction mixture is poured into ice-water and extracted with dichloromethane. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. The residue is purified by means of a silica gel column chromatography (eluent, dichloromethane:acetone :ethanol =5:5:1) to afford methyl 4-tert-butoxycarbonylpiperazine-2-carboxylate as a colorless oily product (4.9 g).

reactant | di-tert-butyl dicarbonate | 5.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl piperazine-2-carboxylate dihydrochloride | 5.0 g | Cl.Cl.N1C(CNCC1)C(=O)OC
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | methyl 4-tert-butoxycarbonylpiperazine-2-carboxylate | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)OC | C11H20N2O4
